US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole and (R)-3-Hydroxypyrrolidine were converted to yield (3R)—1-{4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-pyrrolidin-3-ol, MS: 403 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNOS
reactant | (R)-3-Hydroxypyrrolidine | O[C@H]1CNCC1 | C4H9NO
product | (3R)—1-{4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-pyrrolidin-3-ol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN2C[C@@H](CC2)O | C21H23ClN2O2S
